US07745553B2
Synthesis of 2-amino-1-methyl-2-oxoethyl butyl trithiocarbonate (25, R3═C4H9)
Acetone (230 mL), tetrapropylammonium bromide (1.86 g, 6.67 mmol), and butanethiol (9.3 mL, 7.8 g, 8.8 mmol) were added to a solution of sodium hydroxide (3.5 g, 88 mmol) in water (12 mL), and the mixture was stirred in a stoppered flask for 20 min. Carbon disulfide (5.7 mL, 7.2 g, 95 mmol) was added and the solution was stirred for a further 20 min. 2-Bromopropionamide (13.3 g, 87.5 mmol) was added and the mixture was left for 14 h. The reaction was acidified with 2M hydrochloric acid (50 mL) and the volume was reduced to ca 100 mL by evaporation under reduced pressure. The residue was diluted with water (400 mL) and extracted with ethyl acetate (400 mL). The organic layer was washed with water (100 mL) and saturated sodium chloride (100 mL), dried with sodium sulfate and evaporated to dryness under reduced pressure. The residue was dissolved in ether (200 mL) and light petroleum (150 mL) and run through a 10 cm diameter Buchner funnel ¾ filled with silica gel. The filtrate was concentrated to ca ½ volume to give the title compound as a crop of yellow crystals (15.7 g, 76%). The silica gel was washed with ethyl acetate which was then combined with the mother liquors from the first crop of crystals. The resulting solution was evaporated to dryness under reduced pressure and partially purified by chromatography using ether/light petroleum. Recrystallisation from ether/light petroleum gave a second crop of the trithiocarbonate (3.76 g, 18%). An analytically pure sample was obtained by recrystallisation of the combined crops from ether/light petroleum (17.5 g, 84%).

reactant | butanethiol | 8.8 mmol, 9.3 mL, 7.8 g | C(CCC)S | C4H10S
reactant | sodium hydroxide | 88 mmol, 3.5 g | [OH-].[Na+]
reactant | Carbon disulfide | 95 mmol, 5.7 mL, 7.2 g | C(=S)=S | CS2
reactant | 2-Bromopropionamide | 87.5 mmol, 13.3 g | BrC(C(=O)N)C | C3H6BrNO
reactant | hydrochloric acid | 2M, 50 mL | Cl | ClH
catalyst | tetrapropylammonium bromide | 6.67 mmol, 1.86 g | [Br-].C(CC)[N+](CCC)(CCC)CCC
solvent | water | 12 mL | O | H2O
solvent | Acetone | 230 mL | CC(=O)C | C3H6O
product | 2-amino-1-methyl-2-oxoethyl butyl trithiocarbonate | C(SC(C(=O)N)C)(SCCCC)=S | C8H15NOS3
